US04966907
A mixture of 4 tert butyl-4,5,6,7 tetrahydro-5-benzofuranone (1.00 g, 5.2 mmol) and sulfur (0.167 g, 1 equivalent) in a sealable tube is flushed with nitrogen, sealed and heated to 225° C. for 30 minutes. An additional portion of sulfur (0.030 g) is then added and the mixture heated an additional 15 minutes. After cooling the total reaction mixture is taken up in a small portion of methylene chloride and applied directly to a flash silica gel column. Elution with 5% ethyl acetate in hexane gives 4-tert-butyl5-benzofuranol.

reactant | tert butyl-4,5,6,7 tetrahydro-5-benzofuranone | 5.2 mmol, 1.00 g | C(C)(C)(C)C=1OC2=C(C1)CC(CC2)=O | C12H16O2
reactant | sulfur | 0.167 g, 1 equivalent | [S] | S
product | 4-tert-butyl5-benzofuranol | C(C)(C)(C)C1=C(C=CC2=C1C=CO2)O | C12H14O2
